* Z:\mnt\design.r\spice\examples\PLL.asc
A1 IN 0 0 0 0 0 N001 0 MODULATOR mark=1.1K space=.9K
R3 N004 N003 1K
C2 N004 0 1µ
A3 N004 0 0 0 0 0 N005 0 MODULATOR mark=2K space=0
A2 0 N002 0 N005 0 0 N003 0 XOR Ref=0
A4 signal 0 0 0 0 0 out 0 SCHMITT Vt=.5 Vh=1m
E2 signal 0 N004 0 Laplace=1./(1+.0005*s)**3 cache=2
E1 N002 0 N001 0
B1 IN 0 V=rand(time*500) >= .5
.tran 300m
.params w0=2*pi*1K Q=5
* .options baudrate=500
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
