* Z:\mnt\design.r\spice\examples\PLL.asc
A1 IN 0 0 0 0 0 N001 0 MODULATOR
R3 N004 N003 1K
C2 N004 0 1µ
A3 N004 0 0 0 0 0 N005 0 MODULATOR
A2 0 N002 0 N005 0 0 N003 0 XOR
A4 signal 0 0 0 0 0 out 0 SCHMITT
E2 signal 0 N004 0
E1 N002 0 N001 0
B1 IN 0
.tran 300m
.params w0=2*pi*1K Q=5
* .options baudrate=500
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
